US07419975B2
(2S,3R)-3-(3-Phenethylamino-propyl)-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid ethyl ester (E):
To a solution of (2S,3R)-1-((2E,4Z)-(S)-1,2-Dimethyl-hexa-2,4-dienyl)-3-(3-oxo-propyl) pyrrolidine-2-carboxylic acid ethyl ester(1. g, crude) in EtOH(10 mL) is added phenethylamine(0.44 g, 3.65 mmol) at r.t. After stirring at r.t. for 30 min, NaBH3CN(0.3 g, 4.87 mmol) is added in one portion, After stirring at r.t. for 1.5 Hrs, the reaction solution is diluted with 50 mL of ether and washed with 20 mL of brine. The ether layer is concentrated and the crude product is purified by chromatography (CH2Cl2/MeOH: 97/3) to give a pale liquid (405 mg, 30.0%). (NMR and MS data confirmed, U-4117-52-20).

reactant | (2S,3R)-1-((2E,4Z)-(S)-1,2-Dimethyl-hexa-2,4-dienyl)-3-(3-oxo-propyl) pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1N(CC[C@H]1CCC=O)[C@H](\C(=C\C=C/C)\C)C | C18H29NO3
reactant | phenethylamine | 3.65 mmol, 0.44 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | NaBH3CN | 4.87 mmol, 0.3 g | [BH3-]C#N.[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | ether | 50 mL | CCOCC | C4H10O
product | (2S,3R)-3-(3-Phenethylamino-propyl)-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid ethyl ester | 405 mg, 30.0% | C(C)OC(=O)[C@H]1N(CC[C@H]1CCCNCCC1=CC=CC=C1)[C@@H](C)C1=CC=CC=C1 | C26H36N2O2
